US08003073B2
Perhydro-N-methylcarbazole is catalytically dehydrogenated over a supported Pd or Pt catalyst to provide H2 and N-methylcarbazole (FIG. 6). Sequentially, the N-methyl group is oxidized with air using a copper halide catalyst to yield the N-formyl compound Ill. Because of the very high heat of this oxidative transformation, only an approximately 20% conversion of (II) to (III) should be necessary to provide for the heat of dehydrogenation.

reactant | Perhydro-N-methylcarbazole | CN1C2CCCCC2C2CCCCC12 | C13H23N
catalyst | Pd | [Pd] | Pd
product | N-methylcarbazole | CN1C2=CC=CC=C2C=2C=CC=CC12 | C13H11N
